US07763584B2
To a mixture of compound (1S,4R,6S,14S,18R)-[7-cis-4-Cyclopropanesulfonylaminocarbonyl-12-cyclopropyl-18-(tert-butyldimethylsilyloxy)-2,15-dioxo-3,12,16-triaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]carbamic acid, tert-butyl ester (250 mg, 0.35 mmoL) in 15 mL of THF was added tetrabutylammonium fluoride (129 mg, 0.46 mmoL). The mixture was stirred at rt for 18 h. THF was removed by rotary evaporation, and the residue was partitioned between ethyl acetate and water. The organic phase was dried (MgSO4) and concentrated in vacuo to give the crude product. Purification by triturating with hexane provided 200 mg (94%) of (1S,4R,6S,14S,18R)-[7-cis-4-Cyclopropanesulfonylaminocarbonyl-12-cyclopropyl-18-hydroxy-2,15-dioxo-3,12,16-triaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]carbamic acid, tert-butyl ester as a white solid: LC-MS (retention time: 2.32 min), MS m/z 610 (M++1). (Phenomenex 10 μm C18 HPLC column: 3.0×50 mm length. Gradient: 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B. Gradient time: 3 min. Hold time: 1 min. Flow rate: 4 mL/min. Detector Wavelength: 220 nM. Solvent A: 10% MeOH/90% H2O/0.1% TFA. Solvent B: 10% H2O/90% MeOH/0.1% TFA.) (Retention time: 2.32 min), MS m/z 610 (M++1).

reactant | (1S,4R,6S,14S,18R)-[7-cis-4-Cyclopropanesulfonylaminocarbonyl-12-cyclopropyl-18-(tert-butyldimethylsilyloxy)-2,15-dioxo-3,12,16-triaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]carbamic acid, tert-butyl ester | 250 mg | C1(CC1)S(=O)(=O)NC(=O)[C@@]12NC([C@@H]3C[C@H](CN3C([C@H](CN(CCC\C=C/[C@@H]2C1)C1CC1)NC(OC(C)(C)C)=O)=O)O[Si](C)(C)C(C)(C)C)=O | C34H57N5O8SSi
reactant | tetrabutylammonium fluoride | 129 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (1S,4R,6S,14S,18R)-[7-cis-4-Cyclopropanesulfonylaminocarbonyl-12-cyclopropyl-18-hydroxy-2,15-dioxo-3,12,16-triaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]carbamic acid, tert-butyl ester | 200 mg, 94% | C1(CC1)S(=O)(=O)NC(=O)[C@@]12NC([C@@H]3C[C@H](CN3C([C@H](CN(CCC\C=C/[C@@H]2C1)C1CC1)NC(OC(C)(C)C)=O)=O)O)=O | C28H43N5O8S
